US07534887B2
33a) tert-Butyl 4-(3-((6-chloro-2-naphthyl)sulfonyl)propanoyl)-3-(2-ethoxy-2-oxoethyl)piperazine-1-carboxylate
tert-Butyl 3-(2-ethoxy-2-oxoethyl)piperazine-1-carboxylate (0.9 g) was dissolved in dichloromethane (20 mL), and triethylamine (0.92 mL) was added thereto. With ice cooling, 3-((6-chloro-2-naphthyl)sulfonyl)propionic acid (1.0 g), HOBt (0.55 g) and WSC (0.65 g) were added thereto, and the mixture was mixed at room temperature for 16 hours. The reaction solution was basified with an aqueous potassium carbonate solution, then extracted with chloroform, and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off to give the title compound (1.1 g) as a pale brown oily matter.

reactant | tert-Butyl 3-(2-ethoxy-2-oxoethyl)piperazine-1-carboxylate | 0.9 g | C(C)OC(CC1CN(CCN1)C(=O)OC(C)(C)C)=O | C13H24N2O4
reactant | 3-((6-chloro-2-naphthyl)sulfonyl)propionic acid | 1.0 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)CCC(=O)O | C13H11ClO4S
reactant | HOBt | 0.55 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.65 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.92 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl 4-(3-((6-chloro-2-naphthyl)sulfonyl)propanoyl)-3-(2-ethoxy-2-oxoethyl)piperazine-1-carboxylate | 1.1 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)CCC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC(=O)OCC | C26H33ClN2O7S
